US07691861B2
Preparation of (2-Chloro-6-cyano-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-6-trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester (3.59 g, 9.04 mmol) is dissolved in DMF (30 ml) under an atmosphere of argon. After addition of palladium(0) tetrakis(triphenylphosphane) (418 mg, 0.36 mmol) and zinc(II) cyanide (2.12 g, 18.09 mmol), the reaction mixture is heated to 125° C. After 1 h, TLC analysis indicates complete consumption of starting material. The suspension is cooled to RT and poured onto water. Extraction with EtOAc is followed by washing the organic layer with 1 M aqueous HCl, sat. aqueous NaHCO3 solution and brine. After drying over Na2SO4 and removal of solvent, purification by FCC (hexane/EtOAc 3:1) affords the title compound. 1H NMR (d6-DMSO, 400 MHz): δ 1.06 (t, J=8 Hz, 3H), 3.98 (q, J=8 Hz, 2H), 4.24 (s, 2H), 7.66 (d, J=10 Hz, 1H), 7.79 (d, J=10 Hz, 1H), 7.96 (d, J=10 Hz, 1H), 8.13 (d, J=10 Hz, 1H), 8.54 (s, 1H).

reactant | (2-Chloro-6-trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester | 9.04 mmol, 3.59 g | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)Cl)=O | C15H12ClF3O5S
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | palladium(0) tetrakis(triphenylphosphane) | 0.36 mmol, 418 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | zinc(II) cyanide | 18.09 mmol, 2.12 g | [C-]#N.[Zn+2].[C-]#N
product | (2-Chloro-6-cyano-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)C#N)Cl)=O | C15H12ClNO2
